US07759470B2
Coumarin 343-aminopropionic Acid-tert-butyl Ester
285 mg Coumarin 343 (1 mmol), 262 mg aminopropionic acid tert. butyl ester (1.2 mmol) and 343 mg HBTU (1.2 mmol) were dissolved in 5 ml of dry DMF. 280 μl triethylamine were added and the solution was stirred for 2 hours at room temperature. The solvent was evaporated in a vacuum on a rotary evaporator and the product was purified by column chromatography (silica gel 60, Merck, mobile phase: ethyl acetate/methanol 2:1 (v/v)).

reactant | Coumarin 343 | 1 mmol, 285 mg | C1CC2=C3C(=C4C(=C2)C=C(C(=O)O4)C(=O)O)CCCN3C1 | C16H15NO4
reactant | aminopropionic acid tert. butyl ester | 1.2 mmol, 262 mg | C(C)(C)(C)OC(C(C)N)=O | C7H15NO2
reactant | HBTU | 1.2 mmol, 343 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 280 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Coumarin 343 aminopropionic Acid-tert-butyl Ester | C1CC2=C3C(=C4C(=C2)C=C(C(=O)O4)C(=O)O)CCCN3C1.C(C)(C)(C)OC(C(C)N)=O | InChI=1S/C16H15NO4.C7H15NO2/c18-15(19)12-8-10-7-9-3-1-5-17-6-2-4-11(13(9)17)14(10)21-16(12)20;1-5(8)6(9)10-7(2,3)4/h7-8H,1-6H2,(H,18,19);5H,8H2,1-4H3
